US07713993B2
Synthesis of 1-(4-fluorophenyl)-3-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-7-methyl-6,7-dihydro-5H-imidazo[1,5-a]pyrazin-8-one
Sodium hydride (containing mineral oil at 60%, 8 mg) was added to a solution of 1-(4-fluorophenyl)-3-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-6,7-dihydro-5H-imidazo[1,5-a]pyrazin-8-one (42 mg) in THF (3 mL), and the reaction solution was stirred at room temperature for 20 minutes. Methyl iodide (20 mg) was added to the reaction solution, and the reaction solution was stirred at room temperature for two hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 10 mg of the title compound. The property values of the compound are as follows.

reactant | Sodium hydride | 8 mg | [H-].[Na+]
reactant | 1-(4-fluorophenyl)-3-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-6,7-dihydro-5H-imidazo[1,5-a]pyrazin-8-one | 42 mg | FC1=CC=C(C=C1)C=1N=C(N2C1C(NCC2)=O)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C25H22FN5O2
reactant | Methyl iodide | 20 mg | CI | CH3I
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluorophenyl)-3-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-7-methyl-6,7-dihydro-5H-imidazo[1,5-a]pyrazin-8-one | 10 mg | FC1=CC=C(C=C1)C=1N=C(N2C1C(N(CC2)C)=O)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C26H24FN5O2
